US04683331
4-(2',4'-dichlorobiphenylyl)-2-methyl-4-oxo butanoic acid
A solution is prepared by adding 33.4 g dichlorobiphenyl (0.15 moles) and 18.0 g methylsuccinic acid anhydride (0.15 moles) to 100 ml carbon disulfide. The solution is cooled to 10° C. and is treated portionwise, under stirring, with 24.0 g anhydrous aluminum chloride (0.18 moles) at a rate such that the temperature of the reaction mixture does not exceed 15° C. The mixture is stirred for an additional 4 hours at 20° C. and is then decomposed by pouring into a mixture of 350 ml water and 175 ml concentrated hydrochloric acid. Carbon disulfide is distilled off and the residue is washed with 1,2-dichloroethane (2×100 ml and 1×100 ml). The extracts are combined and washed with a 5% aqueous sodium hydroxide solution (5×75 ml) and water (1×75 ml). The alkaline extracts and aqueous washings are combined, filtered with active carbon, and the clear filtrate is acidified to a strong acid with 50% sulfuric acid. The precipitate is separated, washed with water, and purified by crystallization from 95 ml of 65% acetic acid. The yield is 19.3 g (38.0% of theoretical yield) of the title compound with a melting point of 155°-157° C.

reactant | dichlorobiphenyl | 0.15 moles, 33.4 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C12H8Cl2
reactant | methylsuccinic acid anhydride | 0.15 moles, 18.0 g | CC1C(=O)OC(C1)=O | C5H6O3
reactant | aluminum chloride | 0.18 moles, 24.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 175 ml | Cl | ClH
solvent | water | 350 ml | O | H2O
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 4-(2',4'-dichlorobiphenylyl)-2-methyl-4-oxo butanoic acid | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC=C1)C(CC(C(=O)O)C)=O | C17H14Cl2O3
